US08071581B2
Intermediate 32: [3-(1-Methyl-1H-pyrazol-4-yl)-quinolin-6-yl]acetic acid hydrazide
A solution of [3-(1-Methyl-1H-pyrazol-4-yl)-quinolin-6-yl]-acetic acid methyl ester (8.6 mmols) and hydrazine (80.6 mmols) in methanol (75 mL) was heated at 55° C. for an hour before a second addition of hydrazine (80.6 mmol) was added and the reaction heated 55° C. for a further 16 hours After such time the mixture was cooled to 0° C. and the resulting precipitate collected via filtration and washed with cold methanol and dried to return the title compound as a white solid (1.74 g, 70%). 1H NMR 500 MHz (DMSO-d6): ES-MS m/z: 282 (M+H+).

reactant | [3-(1-Methyl-1H-pyrazol-4-yl)-quinolin-6-yl]-acetic acid methyl ester | 8.6 mmols | COC(CC=1C=C2C=C(C=NC2=CC1)C=1C=NN(C1)C)=O | C16H15N3O2
reactant | hydrazine | 80.6 mmols | NN | H4N2
reactant | hydrazine | 80.6 mmol | NN | H4N2
solvent | methanol | 75 mL | CO | CH4O
product | [3-(1-Methyl-1H-pyrazol-4-yl)-quinolin-6-yl]acetic acid hydrazide | CN1N=CC(=C1)C=1C=NC2=CC=C(C=C2C1)CC(=O)NN | C15H15N5O
